US05962479
4-Chloro-3,6-dimethyl-2-(2,4,6-trimethyl-phenyoxy)-pyridine
A solution of 2,4,6-trimethylphenol (450 mg, 3.31 mmol) in 2 ml of DMSO was treated with NaH (60% in oil, 180 mg, 4.5 mmol). After 5min, 2,4-Dichloro-3,6-dimethyl-pyridine (528 mg, 3 mmol) was added. The mixture was heated in the oil bath of 130° C. for 6 hours. The mixture was quenched with water and extracted with EtOAc. The organic layer was dried and concentrated to give 812.5 mg of crude material with two regioisomers. After silica gel column chromatography using 1:1 of CHCl3 :hexane as eluent, the title compound was isolated as white crystals (141 mg), mp 57-62° C.; high MS for C16H18CINO: calc, 275.1072, found 275.70172; IR(KBr) 2951, 2920,1592, 1564 cm-1; 1H NMR (CDCl3) δ6.87 (s, 2H), 6.77 (s, 1H), 2.39 (s, 3H), 2.29 (s, 3H), 2.18 (s, 3H), 2.03 (s, 6H) ppm. The regiochemistry was determined by X-ray structural analysis of the undesired regioisomer, 2-chloro-3,6-dimethyl-4-(2,4,6-trimethyl-phenyoxy)-pyridine.

reactant | 2,4,6-trimethylphenol | 3.31 mmol, 450 mg | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | NaH | 4.5 mmol, 180 mg | [H-].[Na+]
reactant | 2,4-Dichloro-3,6-dimethyl-pyridine | 3 mmol, 528 mg | ClC1=NC(=CC(=C1C)Cl)C | C7H7Cl2N
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | hexane | CCCCCC | C6H14
product | 4-Chloro-3,6-dimethyl-2-(2,4,6-trimethyl-phenyoxy)-pyridine | ClC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C | C16H18ClNO
